US07585881B2
2,6-Dichloro-N-cyclopropyl-isonicotinamidine
2,6-dichloropyridine-4-carbonitrile (5 g, 28.9 mmol), methanol (50 ml) and sodium methoxide (0.66 ml, 2.89 mmol) were mixed and stirred at r.t. for 3 h. HCl in EtOH (24% w/w, 10 ml) and cyclopropylamine (3 mL, 43.4 mmol) were added at 0° C., followed by stirring at r.t. o.n. The reaction mixture was concentrated in-vacuo. The isolated residue was treated with cold aq. NaOH (1N, 75 ml) and extracted with EA. The combined organic phase was washed sequentially with aq. NaOH and brine, dried (Na2SO4), filtered and concentrated in-vacuo. The isolated residue was triturated with Et2O to isolate the title compound (3.82 g). 1H-NMR: 7.59 (br. s, 2H), 4.96 (br. s, 2H), 2.60 (m, 1H), 0.90 (m, 2H), 0.69 (m, 2H).

reactant | 2,6-dichloropyridine-4-carbonitrile | 28.9 mmol, 5 g | ClC1=NC(=CC(=C1)C#N)Cl | C6H2Cl2N2
reactant | sodium methoxide | 2.89 mmol, 0.66 ml | C[O-].[Na+]
reactant | HCl | Cl | ClH
reactant | cyclopropylamine | 43.4 mmol, 3 mL | C1(CC1)N | C3H7N
solvent | EtOH | 10 ml | CCO | C2H6O
solvent | methanol | 50 ml | CO | CH4O
product | 2,6-Dichloro-N-cyclopropyl-isonicotinamidine | 3.82 g | ClC=1C=C(C(=N)NC2CC2)C=C(N1)Cl | C9H9Cl2N3
